US05958918
B. 2-Cyano-4-(hydroxymethyl)pyridine
A solution of 2-cyano-4-[{(tert-butyldimethylsilyl)oxy}methyl]pyridine (10.1 g, 40.5 mmol) in 200 mL of anhydrous MeOH is stirred over 12 g of Dowex-50W-H+ ion-exchange resin (pre-washed with MeOH) for a period of 18 hours. After this time, the mixture is filtered and washed with MeOH twice. The combined filtrates are concentrated in vacuo. The crude residue is purified by column chromatography eluting with 50% EtOAc/hexanes to afford the title compound (4.82 g, 35.9 mmol) as an oil.

reactant | 2-cyano-4-[{(tert-butyldimethylsilyl)oxy}methyl]pyridine | 40.5 mmol, 10.1 g | C(#N)C1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C13H20N2OSi
solvent | MeOH | 200 mL | CO | CH4O
product | 2-Cyano-4-(hydroxymethyl)pyridine | 35.9 mmol, 4.82 g | C(#N)C1=NC=CC(=C1)CO | C7H6N2O
